US08030304B2
4-Trifluoromethyl-thiazole-2-ylamine
Add thiourea (4.0 g, 52.3 mmol) and 3-bromo-1,1,1-trifluoropropan-2-one (5.5 mL, 10 g, 52.3 mmol) to ethanol (100 mL) and heat at 50° C. for 2 h. Cool to room temperature and concentrate to dryness. Dissolve the residue in water and adjust the pH to >12 with 2 M NaOH. Extract with diethyl ether (4×). Dry the combined organic extracts with sodium sulfate, filter, and concentrate under vacuum. Purify the resulting material by silica gel chromatography (CH2Cl2) to obtain the title compound (6.9 g, 79%). ES/MS m/z 169 (M+1)+.

reactant | thiourea | 52.3 mmol, 4.0 g | NC(=S)N | CH4N2S
reactant | 3-bromo-1,1,1-trifluoropropan-2-one | 52.3 mmol, 5.5 mL, 10 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-Trifluoromethyl-thiazole-2-ylamine | 6.9 g, 79% | FC(C=1N=C(SC1)N)(F)F | C4H3F3N2S
